Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
Left Facial Droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old right-handed man with h/o A fib on
warfarin, s/p pacemaker, DM, h/o stroke (with residual speech
difficulty) who presented after a 15 minute episode of left face
weakness.

Last night, he went to get a cup of milk and drank it.  
Suddenly,
he notice that the milk was dripping down the left side of his
mouth.  He called his wife for help and noticed that his speech
did not come out right.  He knew what he wanted to say but it
came out slurred.  He understood what his wife was saying.  When
his wife saw him, she noticed that his left face was droopy.  He
checked his BP and it was 160's over 90's.  His HR was 120's.  
He
got up and walked to the bathroom so he can look in the mirror. 
He was able to walk without difficulty. His arms were strong
also.  By the time he saw his face in the mirror, he face droop
already resolved (approx 15 minutes after onset).

He did not seek medical attention last night because of his fast
recovery but on second thought today, he thinks it's a good idea
to seek medical attention.  He called his cardiologist who sent
him to ___ ED.

On neuro ROS, the pt endorses "head fullness" but denies
headache. Endorses some lightheadedness when he was on
metoprolol. Reports baseline bilateral hearing difficulty. Has
some baseline difficulty producing speech since his stroke ___
years ago. Denies loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, vertigo, tinnitus.  Denies difficulties
comprehending speech.  Denies focal numbness, parasthesiae 
though
has "neuropathy" in the feet. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. 
 
Past Medical History:
Stroke ___ years ago happened in the setting of holding warfarin
for colonoscopy.  Had right face/arm/leg weakness now resolved.
Only has residual slurred speech and paraphasic error and
word-finding difficulty at baseline.
Asthma vs multifactorial dyspnea secondary to obesity and mild
CHF.
AFib on anticoagulations with a pacer placed.
Diabetes type 2.
Mitral stenosis secondary to rheumatic heart disease.
ASD with left-to-right shunt.
Pneumonia hospitalization in past.
History of MVA at ___ years old.
Phlebitis in ___.

 
Social History:
___
Family History:
Mother died of a MI at age of ___.
 
Physical Exam:
Physical Exam:
Vitals: 98.4, 94, 149/91, 21, 99%  
General: Awake, cooperative, NAD.
HEENT: NC/AT, MMM, no lesions noted in oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA 
Cardiac: RRR, nl. 

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Mildly inattentive, named ___ till ___,
skipping ___ and ___. Language is fluent with intact
repetition and comprehension. Normal prosody. There are rare
phonatic paraphasic errors. Pt was able to name both high
frequency objects but unable to name low ___ objects such as
stethoscope and bracelet.  Able to read without difficulty.
Speech was mildly dysarthric. Able to follow both midline and
appendicular commands. The pt had good knowledge of current
events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing decreased bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Orbiting symmetric.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: Length dependent decreased in PP and temp in bilateral
arms (mid forearm) and legs (mid shin on right and knee on left
though there is skin graft on left leg confounding exam). No
deficits to light touch, proprioception throughout. 
Graphesthesia
intact in b/l hands.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
Plantar response was flexor bilaterally.

-Coordination:No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unsteady when attempting to walk in tandem. Romberg
absent.

===========================================

Discharge Physical Examination:
no significant changes from admission exam
 
Pertinent Results:
___ 09:25PM URINE  HOURS-RANDOM
___ 09:25PM URINE  HOURS-RANDOM
___ 09:25PM URINE  GR HOLD-HOLD
___ 09:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 09:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-70 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 09:25PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:25PM URINE  HYALINE-3*
___ 09:25PM URINE  MUCOUS-RARE
___ 06:35PM   WBC-10.8# RBC-5.44 HGB-16.5 HCT-50.0 MCV-92 
MCH-30.3 MCHC-33.0 RDW-14.7
___ 06:35PM   NEUTS-42.3* LYMPHS-43.2* MONOS-11.2* EOS-2.4 
BASOS-0.9
___ 06:35PM   PLT COUNT-143*
___ 06:22PM   ___ PTT-47.9* ___
___ 03:20PM   LACTATE-1.6
___ 03:15PM   GLUCOSE-275* UREA N-38* CREAT-1.9* SODIUM-138 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-29 ANION GAP-13
___ 03:15PM   estGFR-Using this
___ 03:15PM   ALT(SGPT)-26 AST(SGOT)-27 ALK PHOS-56 TOT 
BILI-0.7
___ 03:15PM   cTropnT-<0.01
___ 03:15PM   ALBUMIN-4.0 CALCIUM-9.4 PHOSPHATE-2.8 
MAGNESIUM-2.0
___ 03:15PM   DIGOXIN-0.8*
___ 03:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:11AM BLOOD %HbA1c-7.6* eAG-171*
___ 08:11AM BLOOD Triglyc-200* HDL-27 CHOL/HD-8.8 
LDLcalc-171*
___ 08:11AM BLOOD Calcium-8.9 Phos-3.2 Mg-1.9 Cholest-238*

Non-Contrast Head CT (___) :
Preliminary Report FINDINGS:  
There is no acute intracranial hemorrhage,acute infarction, mass 
or midline shift. There is no hydrocephalus. The ventricles and 
sulci are enlarged consistent with atrophy. There are 
periventricular white matter hypodensities most consistent with 
sequelae of chronic small vessel ischemic disease. In the left 
frontal lobe, along the convexity is an extraaxial soft tissue 
density lesion adjacent to the calvarium which is remodeled. 
Visualized paranasal sinuses and mastoid air cells are clear. 
There is no fracture. 
Preliminary Report IMPRESSION:  
No acute intracranial process. 

Head Neck CTA (___):
There is no large vessel occlusion, dissection, or aneurysm > 3 
mm.  
Multifocal atherosclerotic calcifications are seen predominantly 
within the bilateral common carotid arteries at the bifurcation 
and within the bilateral carotid siphons. The carotid and 
vertebral arteries and their major branches are patent with no 
evidence of stenoses. The left vertebral artery is noted to be 
dominant. 

 
Brief Hospital Course:
- Transient left facial weakness, thought to be TIA, though 
unable to obtain MRI due to pacemaker. CTA did not show 
significant atherosclerosis, but stroke work up labs showed 
significant hyperlipidemia with LDL of 170. 
- Pt developed leukocytosis while in the hospital, but afebrile 
and clinically appearing well, no evidence of UA or pneumonia. 
Should be repeated as outpatient within 1 week. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident]  () No

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
171) - () No

5. Intensive statin therapy administered? (x) Yes - () No [if 
LDL >= 100, reason not given: ____ ]
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)

6. Smoking cessation counseling given? () Yes - () No [if no, 
reason: (x) non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No [if no, reason not assessed: ____ ]

9. Discharged on statin therapy? (x) Yes - () No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]

10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - () N/A

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Digoxin 0.125 mg PO DAILY 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. glimepiride 2 mg oral unknown 
4. saxagliptin 5 mg oral daily 
5. Warfarin 4 mg PO EVERY OTHER DAY 
6. Warfarin 5 mg PO EVERY OTHER DAY 
7. Acetaminophen 325 mg PO Q6H:PRN pain 
8. Vitamin D 1000 UNIT PO BID 
9. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Digoxin 0.125 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Warfarin 4 mg PO EVERY OTHER DAY 
5. Warfarin 5 mg PO EVERY OTHER DAY 
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. glimepiride 2 mg oral unknown 
8. saxagliptin 5 mg oral daily 
9. Vitamin D 1000 UNIT PO BID 
10. Pravastatin 20 mg PO DAILY 
RX *pravastatin 20 mg 1 tablet(s) by mouth once a day at bedtime 
Disp #*30 Tablet Refills:*2
11. Fish Oil (Omega 3) 1000 mg PO BID 
RX *docosahexanoic acid-epa [Fish Oil] 120 mg-180 mg 1 
capsule(s) by mouth twice a day Disp #*60 Capsule Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: transient ischemic attack, hyperlipidemia
Secondary Diagnosis: atrial fibrillation on anticoagulation, 
pacemaker placement

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of left facial droop 
resulting from a transient ischemic attack, a condition in which 
a blood vessel providing oxygen and nutrients to the brain is 
transiently blocked and causes symptoms. The brain is the part 
of your body that controls and directs all the other parts of 
your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.

TIA can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- hyperlipidemia (high cholesterol)
- high blood pressure
- atrial fibrillation

We are changing your medications as follows:
- START atorvastatin 20 mg daily 
- START fish oil supplements twice a day

Please take your other medications as prescribed. 
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake
It was a pleasure providing you with care during this 
hospitalization.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___